US05877191
Step B: (3S,5R,6S,7S)-6-(4-Fluorophenyl)-7-(methanesulfonyloxy)-3-(5-cyano-2-isopropoxy-phenyl)-1-oxaspiro[4.4]nonane
To a solution of (5R,6S,7S)-6-(4-fluorophenyl)-3-(5-cyano-2-isopropoxy-phenyl)-1-oxaspiro[4.4]nonane-7-methanol (35 mg, 0.085 mmol) in methylene chloride (1 mL) were added triethylamine (24 μL, 0.172 mmol) and methanesulfonic anhydride (22 mg, 0.126 mmol). The reaction mixture was stirred for 2 hours at room temperature, diluted with methylene chloride, washed with water, 2N hydrochloric acid, saturated sodium hydrogencarbonate solution, saturated brine solution, dried (Na2SO4), and evaporated. The product was used without further purification in Step C.

reactant | (5R,6S,7S)-6-(4-fluorophenyl)-3-(5-cyano-2-isopropoxy-phenyl)-1-oxaspiro[4.4]nonane-7-methanol | 0.085 mmol, 35 mg | FC1=CC=C(C=C1)[C@H]1[C@]2(CC(CO2)C2=C(C=CC(=C2)C#N)OC(C)C)CC[C@@H]1CO | C25H28FNO3
reactant | triethylamine | 0.172 mmol, 24 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 0.126 mmol, 22 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | (3S,5R,6S,7S)-6-(4-Fluorophenyl)-7-(methanesulfonyloxy)-3-(5-cyano-2-isopropoxy-phenyl)-1-oxaspiro[4.4]nonane | FC1=CC=C(C=C1)[C@@H]1[C@]2(C[C@H](CO2)C2=C(C=CC(=C2)C#N)OC(C)C)CC[C@@H]1OS(=O)(=O)C | C25H28FNO5S
